US06087380
1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide and methanolic hydrochloric acid, methanol and ammonium carbonate. Yield: 87% of theory, Rf value: 0.11 (silica gel; dichloromethane/ethanol=4:1) C27H28N6O3 (484.6) ##EQU31##

reactant | 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1)CCC(=O)OCC | C28H27N5O3
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | methanol | CO | CH4O
product | 1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide-hydrochloride | Yield: 87% | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OC | InChI=1S/C27H28N6O3.ClH/c1-32-23-13-10-19(27(35)33(15-14-25(34)36-2)21-6-4-3-5-7-21)16-22(23)31-24(32)17-30-20-11-8-18(9-12-20)26(28)29;/h3-13,16,30H,14-15,17H2,1-2H3,(H3,28,29);1H
